US07759518B2
5-Chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-2-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine was reacted with 5-chlorothiophene-2-sulfonyl chloride to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.38 (dd, J=1.5 & 10.2 Hz, 1H), 7.32 (ddd, J=2.1, 5.1 & 9.3 Hz, 1H), 7.25 (d, J=3.9 Hz, 1H), 7.10 (dd, J=9.0 & 18.6 Hz, 3H), 6.84 (d, J=4.2 Hz, 1H), 5.86 (dt, J=1.8, 8.7 & 17.4 Hz, 1H), 5.49 (br s, D2O exchangeable, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 5-chlorothiophene-2-sulfonyl chloride | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
product | 5-Chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-2-sulfonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C16H9ClF3IN2O2S2
